US04593095
Synthesis of 8-(2-Amino-4-Chlorophenyl) Theophylline (B246)
1,3-dimethyl-5,6-diaminouracil (0.01 mol) was suspended in 50 ml methanol. 2-amino-4-chlorobenzoic acid (0.01 mol) was added, followed by 0.01 mol of DICD. The reactants were stirred at room temperature for 15 min, then filtered and washed with methanol. The solid was boiled in 40 ml 2.5N NaOH for five min, filtered hot, and the eluate was left to cool for three hours. The material which precipitated on cooling was filtered without washing, redissolved in 40 ml water, and precipitated by neutralization with concentrated HCl. The solid was collected by filtration, washed with H2O, and dried. The product was purified by suspending in 100 ml water, adding NaOH until the compound was dissolved, filtering, precipitating the solid with HCl, filtering, washing with H2O, and drying. The product was identified by chemical ionization mass spectrometry and elemental analysis. Yield 12.5%.

reactant | 1,3-dimethyl-5,6-diaminouracil | 0.01 mol | CN1C(=O)N(C(=O)C(=C1N)N)C | C6H10N4O2
reactant | 2-amino-4-chlorobenzoic acid | 0.01 mol | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
solvent | methanol | 50 ml | CO | CH4O
product | 8-(2-Amino-4-Chlorophenyl) Theophylline | Yield 12.5% | NC1=C(C=CC(=C1)Cl)C1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C13H12ClN5O2
